data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4686,5342,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:12]([C:11]#[N:10])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:13]=[C:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,14.845538648988574,-27.54644550189392
2480,2752,[CH3:19][O:20][C:21](=[O:22])[c:23]1[o:24][c:25](=[O:26])[c-:27](-[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[n+:34]1[CH3:35].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:27]1([c:28]3[cH:29][cH:30][cH:31][cH:32][cH:33]3)[C:25](=[O:26])[O:24][C:23]2([C:21]([O:20][CH3:19])=[O:22])[N:34]1[CH3:35],water,298.15,24.634880927131853,-7.650303220525259
2664,2957,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[NH+:20][C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:21]([C:22](=[O:23])[O:24][CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[NH:20][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,22.5989153175911,-34.29673206628728
2668,2962,[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24](=[O:25])[CH-:26][N+:27]([CH3:28])=[C:29]([CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[CH:26]([C:24]([CH3:23])=[O:25])[N:27]([CH3:28])[C:29]2([CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,34.19841605665779,-25.88155514545011
89,100,[CH3:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[N:17].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[N:16]=[N:17]2,water,298.15,25.290361627178545,-13.30932074693057
663,723,[CH3:15][NH:16][C:17](=[O:18])[CH-:19][N+:20]#[C:21][C:22]#[N:23].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]=[C:21]2[C:22]#[N:23],water,298.15,13.66699686515602,-43.59544438544605
477,522,[CH3:11][C:12](=[O+:13][NH-:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[NH:14][O:13][C:12]2([CH3:11])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,25.49117512295893,-47.07465026978817
5108,5798,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C-:26]([C:27]#[N:28])[C:29]#[N:30]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:26]([C:27]#[N:28])([C:29]#[N:30])[N:12]([CH3:11])[C:13]2([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,29.103435810241947,-3.8680390346490943
2928,3263,[CH2:1]=[CH2:2].[CH2:3]=[NH+:4][C-:5]([C:6]([CH3:7])=[O:8])[C:9]([CH3:10])=[O:11]>>[CH2:1]1[CH2:2][C:5]([C:6]([CH3:7])=[O:8])([C:9]([CH3:10])=[O:11])[NH:4][CH2:3]1,water,298.15,18.5624893016434,-21.194200721274253
659,719,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,12.765552933059508,-42.11026040016067
4741,5414,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C-:16]([C:17]#[N:18])[N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:16]([CH3:15])([C:17]#[N:18])[N:19]=[C:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,8.979244911440459,-29.61497829270542
